US07119109B2
f) [3-(3-Cyano-6-methyl-pyridin-2-yloxy)-4,4,4-trifluorobutyl]-methylcarbamic acid tert-butyl ester
A mixture of 2-chloro-6-methylnicotinonitrile (0.215 g, 1.41 mmol) and tert-butyl N-methyl-N-(4,4,4-trifluoro-3-hydroxybutyl)carbamate (0.345 g, 1.34 mmol) in DMF (6 mL) was treated with caesium carbonate (0.875 g, 2.69 mmol) at ambient temperature. After stirring for 4 days, the mixture was diluted with water and extracted with diethyl ether. The combined organic extracts were washed (water, brine), dried, and evaporated to an orange oil/solid mixture. The crude material was purified by silica gel chromatography, eluting with 100% dichloromethane and 5% methanol/95% dichloromethane (v/v) to give the product as a yellow oil (0.156 g, 31%).

reactant | 2-chloro-6-methylnicotinonitrile | 1.41 mmol, 0.215 g | ClC1=C(C#N)C=CC(=N1)C | C7H5ClN2
reactant | tert-butyl N-methyl-N-(4,4,4-trifluoro-3-hydroxybutyl)carbamate | 1.34 mmol, 0.345 g | CN(C(OC(C)(C)C)=O)CCC(C(F)(F)F)O | C10H18F3NO3
reactant | caesium carbonate | 2.69 mmol, 0.875 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | [3-(3-Cyano-6-methyl-pyridin-2-yloxy)-4,4,4-trifluorobutyl]-methylcarbamic acid tert-butyl ester | 0.156 g, 31% | C(C)(C)(C)OC(N(C)CCC(C(F)(F)F)OC1=NC(=CC=C1C#N)C)=O | C17H22F3N3O3
